US09334286B2
Preparation 56: 7-(1-Methyl-1H-pyrazol-4-yl)-2-(methylthio)pyrido[2,3-d]pyrimidine
A suspension of 7-chloro-2-(methylthio)pyrido[2,3-d]pyrimidine (Preparation 57, 31 mg, 0.146 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (43 mg, 0.21 mmol), Pd(PPh3)4 (17 mg, 0.015 mmol) and CsF (67 mg, 0.44 mmol), in DME/MeOH (3/1 mL) was stirred at 150° C. under microwave irradiation for 30 minutes. The reaction mixture was filtered, concentrated in vacuo onto silica gel and purified by Biotage silica gel column chromatography eluting with 80% EtOAc in cyclohexane to afford title compound as an yellow oil (13 mg, 35%).

reactant | 7-chloro-2-(methylthio)pyrido[2,3-d]pyrimidine | 0.146 mmol, 31 mg | ClC=1C=CC2=C(N=C(N=C2)SC)N1 | C8H6ClN3S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.21 mmol, 43 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | CsF | 0.44 mmol, 67 mg | [F-].[Cs+]
solvent | DME MeOH | 1 mL | COCCOC.CO
catalyst | Pd(PPh3)4 | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(1-Methyl-1H-pyrazol-4-yl)-2-(methylthio)pyrido[2,3-d]pyrimidine | 13 mg, 35% | CN1N=CC(=C1)C=1C=CC2=C(N=C(N=C2)SC)N1 | C12H11N5S
